US07659267B2
2-{[4-(Acetylamino)benzoyl]thio}benzoic acid
Thiosalicylic acid (1.28 g, 8.3 mmol) was suspended in tetrahydrofuran (10 ml). While stirring, pyridine (1.64 g, 21 mmol) and then a tetrahydrofuran solution (5 ml) of 4-(acetylamino)benzoyl chloride (1.67 g, 9.1 mmol) were dropwise added to the suspension under ice cooling. After the reaction mixture was stirred for 15 hours, the mixture was diluted with water and 6N hydrochloric acid was added thereto to make its liquid property acidic. The mixture was extracted (50 ml×2) with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was removed by distillation and the residue was recrystallized from ethyl acetate-isopropyl ether to give the title compound (1.38 g, 53%).

reactant | Thiosalicylic acid | 8.3 mmol, 1.28 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | pyridine | 21 mmol, 1.64 g | N1=CC=CC=C1 | C5H5N
reactant | 4-(acetylamino)benzoyl chloride | 9.1 mmol, 1.67 g | C(C)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C9H8ClNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-{[4-(Acetylamino)benzoyl]thio}benzoic acid | 1.38 g, 53% | C(C)(=O)NC1=CC=C(C(=O)SC2=C(C(=O)O)C=CC=C2)C=C1 | C16H13NO4S
